US05932590
Preparation of 2-Benzyl-1,2,3,4-tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide
1,2,3,4-Tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide hydrochloride (0.15 g, 0.33 mmol) was dissolved in MeOH (7 mL). Et3N was added to this solution dropwise until the pH=5. To the solution was added benzaldehyde (0.069 mL, 0.65 mmol) and sodium cyanoborohydride (0.041 g, 0.65 mmol). After stirring for 18 hr. the mixture was evaporated in vacuo and the residue was partitioned between EtOAc (50 mL) and saturated NaHCO3 (30 mL). The organic layer was washed with saturated NaCl solution (30 mL) and dried (MgSO4). Filtration and concentration to dryness gave the title compound after purification on silica gel eluting with CH2Cl2 :

reactant | 1,2,3,4-Tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide hydrochloride | 0.33 mmol, 0.15 g | Cl.C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2NCC3=CC=CC=C3C2)C=C1
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | benzaldehyde | 0.65 mmol, 0.069 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 0.65 mmol, 0.041 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 7 mL | CO | CH4O
product | 2-Benzyl-1,2,3,4-tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide | C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2N(CC3=CC=CC=C3C2)CC2=CC=CC=C2)C=C1 | C30H29N5O
